US06284902B1
A solution of distilled water (10 ml), (S)-3-acetoxy-4-bromobutyric acid (0.9 g, 0.004 mol) and t-butylamine (0.08 g, 0.012 mol) was charged to 100 ml flask equipped with a thermometer, pH meter and agitator, and stirred at 0˜5° C. for 2 hours to give (S)-3,4-epoxybutyric acid t-butylamine salt. It was confirmed by a NMR analysis that more than 99% (S)-3,4-epoxybutyric acid t-butylamine salt was converted.

reactant | (S)-3-acetoxy-4-bromobutyric acid | 0.004 mol, 0.9 g | C(C)(=O)O[C@@H](CC(=O)O)CBr | C6H9BrO4
reactant | t-butylamine | 0.012 mol, 0.08 g | C(C)(C)(C)N | C4H11N
solvent | water | 10 ml | O | H2O
product | (S)-3,4-epoxybutyric acid t-butylamine salt | C(C)(C)(C)N.O1[C@@H](CC(=O)O)C1 | InChI=1S/C4H11N.C4H6O3/c1-4(2,3)5;5-4(6)1-3-2-7-3/h5H2,1-3H3;3H,1-2H2,(H,5,6)/t;3-/m.0/s1
